US06884868B1
To a solution of 4-[4-[4-hydroxy-4-[4-(4-methoxybutoxy)phenyl]piperidin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester (3.41 g) in dichloromethane (50 ml) was added trifluoroacetic acid (8.5 ml) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for further 6 hours. To the reaction mixture was added 1 mol/ml sodium hydroxide solution (170 ml), dichloromethane (136 ml) and methanol (14 ml). The organic layer was washed with water and brine, dried over magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (50:1 dichloromethane-methanol elution) to give 4-[4-[4-[4-(4-methoxybutoxy)phenyl]-3,6-dihydro-2H-pyridin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester (2.23 g).

reactant | 4-[4-[4-hydroxy-4-[4-(4-methoxybutoxy)phenyl]piperidin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester | 3.41 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)(C1=CC=C(C=C1)OCCCCOC)O | C34H43N3O5
reactant | trifluoroacetic acid | 8.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1 mol/ml, 170 ml | [OH-].[Na+]
reactant | methanol | 14 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 136 ml | ClCCl | CH2Cl2
product | 4-[4-[4-[4-(4-methoxybutoxy)phenyl]-3,6-dihydro-2H-pyridin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester | 2.23 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(=CC1)C1=CC=C(C=C1)OCCCCOC | C34H41N3O4
